** HSPICE file for xor2_ld
**   - generated by ext2sp v4.1

** Include netlist file for xor2_ld
.include xor2_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
   VA NA GND PWL(
      +0NS     0V  
      +2NS     0V  
      +2.25NS  3.3V 
      +6NS     3.3V  
      +6.25NS  0V
   +)
   VB NB GND PWL(
      +0NS     0V  
      +4NS     0V  
      +4.25NS  3.3V  
      +8NS     3.3V  
      +8.25NS  0V
   +)

** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 10NS

** Specify ouput signals to measure here
** e.g. rise and fall delays for output Y
   .measure tran prop_delay_a_1
      +TRIG v(a) VAL='3.3*0.5' TD=0NS FALL=1
      +TARG v(y) VAL='3.3*0.5' TD=0NS RISE=1
   .measure tran prop_delay_a_2
      +TRIG v(a) VAL='3.3*0.5' TD=0NS RISE=1
      +TARG v(y) VAL='3.3*0.5' TD=0NS RISE=2

   .measure tran prop_delay_b_1
      +TRIG v(b) VAL='3.3*0.5' TD=0NS FALL=1
      +TARG v(y) VAL='3.3*0.5' TD=0NS FALL=1
   .measure tran prop_delay_b_2
      +TRIG v(b) VAL='3.3*0.5' TD=0NS RISE=1
      +TARG v(y) VAL='3.3*0.5' TD=0NS FALL=2




   .measure average_prop_a PARAM = '(prop_delay_a_1 + prop_delay_a_2)/2'
   .measure average_prop_b PARAM = '(prop_delay_b_1 + prop_delay_b_2)/2'



** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
